US05716929
3(S)-tert-Butoxycarbonylamino-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-on
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (8.54 g, 44.5 mmol) was added to a cooled (0° C.) solution of 2-tert-butoxycarbonylamino-3-(2-aminophenylamino)propionic acid (11.95 g, 40.5 mmol) in 100 ml of dimethylformamide and stirred for 18 hours. The reaction was poured into 700 ml of ethyl acetate and washed four times with 100 ml of water. The organic layer was dried over anhydrous sodium sulfate, filtered, and evaporated to give a brown solid that was purified by flash chromatography eluting with 3:7 ethyl acetate/hexane to give 8 g (71%) of the title compound: 1H NMR (CDCl3) δ 7.78 (1H, s), 7.02-6.95 (1H, m), 6.88-6.82 (1H, m), 6.82-6.78 (1H, m), 6.75-6.70 (1H, m), 5.8-5.7 (1H, d), 4.55-4.45 (1H, m), 3.95 (1H, s), 3.9-3.82 (1H, m), 3.48-3.40 (1H,m), 1.45 (9H, s).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 44.5 mmol, 8.54 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-tert-butoxycarbonylamino-3-(2-aminophenylamino)propionic acid | 40.5 mmol, 11.95 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CNC1=C(C=CC=C1)N | C14H21N3O4
reactant | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3(S)-tert-Butoxycarbonylamino-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-on | 8 g, 71% | C(C)(C)(C)OC(=O)N[C@H]1CNC2=C(NC1=O)C=CC=C2 | C14H19N3O3
